US05041455
A. 3-(4-hexylthio-1,2,5-thiadiazol-3-yl)pyridine
Sodium hydrogen sulfide (0.25 g, 3.3 mmol) was added to a solution of 3-(4-chloro-1,2,5-thiadiazol-3-yl)pyridine (0.59 g, 3 mmol) in DMF (20 ml) at room temperature and the reaction mixture was stirred for 30 min. Potassium carbonate (1.24 g, 9 mmol) and hexyl bromide (0.63 ml, 4.5 mmol) were added and the reaction mixture was stirred for additionally 10 min. Water (50 ml) was added and extracted with ether. The combined ether phases were dried and evaporated to give the title compound.

reactant | Sodium hydrogen sulfide | 3.3 mmol, 0.25 g | S.[Na]
reactant | 3-(4-chloro-1,2,5-thiadiazol-3-yl)pyridine | 3 mmol, 0.59 g | ClC=1C(=NSN1)C=1C=NC=CC1 | C7H4ClN3S
reactant | Potassium carbonate | 9 mmol, 1.24 g | C([O-])([O-])=O.[K+].[K+]
reactant | hexyl bromide | 4.5 mmol, 0.63 ml | C(CCCCC)Br | C6H13Br
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | Water | 50 ml | O | H2O
product | 3-(4-hexylthio-1,2,5-thiadiazol-3-yl)pyridine | C(CCCCC)SC=1C(=NSN1)C=1C=NC=CC1 | C13H17N3S2
